US04140785
A stirred mixture of 0.2 mole of 3-chlorobenzo-[b]thiophene-2-carboxamide in 150 ml. of phosphorus oxychloride was refluxed for three hours. The reaction mixture was then cooled to room temperature and poured onto 1 kg of ice to give a solid product which was collected by filtration. Recrystallization from 1-chlorobutane gave 3-chlorobenzo[b]thiophene-2-carbonitrile, m.p. 124°-125° C.

reactant | 3-chlorobenzo-[b]thiophene-2-carboxamide | 0.2 mole | ClC=1C2=C(SC1C(=O)N)C=CC=C2 | C9H6ClNOS
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chlorobenzo[b]thiophene-2-carbonitrile | ClC=1C2=C(SC1C#N)C=CC=C2 | C9H4ClNS
